US05162327
1,3-Dimethyl-5-(3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))-phenylcarbamoyl)barbituric acid (Example 4)
1.04 g (10.3 mmol) of triethylamine and then 9.25 g (20.5 mmol) of 3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))-phenyl isocyanate were added to 3.20 g (20.5 mmol) of 1,3-dimethylbarbituric acid in 40 ml of toluene at room temperature. The mixture was subsequently stirred at 40° C. for 2 hours, 200 ml of methylene chloride were added and the mixture was washed with 100 ml of 2N aqueous hydrochloric acid and several times with water. After drying over magnesium sulfate, the mixture was concentrated.

reactant | triethylamine | 10.3 mmol, 1.04 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))-phenyl isocyanate | 20.5 mmol, 9.25 g | ClC=1C=C(C=C(C1OC(C(F)OC(C(C(F)F)(F)F)(F)F)(F)F)Cl)N=C=O | C12H4Cl2F9NO3
reactant | 1,3-dimethylbarbituric acid | 20.5 mmol, 3.20 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dimethyl-5-(3,5-dichloro-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy))-phenylcarbamoyl)barbituric acid | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC(=C(C(=C1)Cl)OC(C(F)OC(C(C(F)F)(F)F)(F)F)(F)F)Cl)=O)C | C18H12Cl2F9N3O6
